US07294644B2
Preparation of 5-(3,5-Bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid cyclohexylamide
A solution of 59.5 μl (0.52 mmol) of cyclohexylamine in toluene (2 ml) was treated at RT dropwise with 0.26 μl of a 2 M solution of trimethylaluminum in toluene (0.52 mmol). The reaction solution was stirred 1 h at RT, 200 mg (0.43 mmol) of 5-(3,5-bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid methyl ester in toluene (2 ml) were added and reaction mixture was heated at 110° C. for 3 h. The mixture was then partitioned between water and ethyl acetate, the organic layer was isolated, dried over sodium sulfate and concentrated in vacuo and purified by column chromatography to give 114 mg of the title compound, MS (ISP) 529.3 (M+H)+.

reactant | cyclohexylamine | 0.52 mmol, 59.5 μl | C1(CCCCC1)N | C6H13N
reactant | trimethylaluminum | C[Al](C)C
reactant | 5-(3,5-bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid methyl ester | 0.43 mmol, 200 mg | COC(=O)C1=C(N(C(=C1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1CCCCC1)C | C23H25F6NO2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.52 mmol | C1(=CC=CC=C1)C | C7H8
product | 5-(3,5-Bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid cyclohexylamide | 114 mg | C1(CCCCC1)NC(=O)C1=C(N(C(=C1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1CCCCC1)C | C28H34F6N2O
